US05387710
To a mixture of (S)-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ol (1.00 g), phthalimide (0.77 g), and triphenylphosphine (1.36 g) in dry tetrahydrofuran, was added dropwise a solution of diethyl azodicarboxylate (0.91 g) in dry tetrahydrofuran (3 ml) at 26° C.~33° C. The mixture was stirred at ambient temperature for 2 days. The solvent was evaporated in vacuo. Diethyl ether (30 ml) was added to the residue and the mixture was stirred and the resulting precipitates (triphenyl phosphinoxide) were removed by filtration. The filtrate was evaporated in vacuo. The residue was purified by column chromatography (silica gel, n-hexane:ethyl acetate=5:1) to give (R)-N-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phthalimide as a white powder (0.43 g).

reactant | (S)-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ol | 1.00 g | COC1=CC2=C(CCC[C@@H](C2)O)C=C1 | C12H16O2
reactant | phthalimide | 0.77 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 1.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.91 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (R)-N-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)phthalimide | 0.43 g | COC1=CC2=C(CCC[C@H](C2)N2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C20H19NO3
